US08022223B2
Step A: Preparation of 5-bromo-3-(3-methoxyphenylthio)picolinonitrile:
A 10 mL round-bottomed flask was charged with 5-bromo-3-nitropicolinonitrile (300 mg, 1.31 mmol), 3-methoxybenzenethiol (0.150 mL, 1.31 mmol), and DMF (12 mL). NaH (37.8 mg, 1.58 mmol) was added and reaction stirred at room temperature for 10 minutes. The reaction was poured into water and extracted with EtOAc. The organic layer was dried over sodium sulfate, filtered and concentrated. The resulting residue was purified on silica gel (10% EtOAc in Hexanes) to afford the title compound (345 mg, 81%).

reactant | 5-bromo-3-nitropicolinonitrile | 1.31 mmol, 300 mg | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | 3-methoxybenzenethiol | 1.31 mmol, 0.150 mL | COC=1C=C(C=CC1)S | C7H8OS
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
reactant | NaH | 1.58 mmol, 37.8 mg | [H-].[Na+]
solvent | water | O | H2O
product | 5-bromo-3-(3-methoxyphenylthio)picolinonitrile | 345 mg, 81% | BrC=1C=C(C(=NC1)C#N)SC1=CC(=CC=C1)OC | C13H9BrN2OS
